US09403801B2
3-(9-((5-chloro-2-((1-(2-hydroxyethyl)-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecan-3-yl)-3-oxopropanenitrile
To a solution of 2-[4-[[4-(3-azaspiro[5.5]undecan-9-ylamino)-5-chloropyrimidin-2-yl]amino]-1H-pyrazol-1-yl]ethanol (200.5 mg, 0.4940 mmol) in a mixture of dichloromethane (40 mL) and DMF (10 mL) were added 2-cyanoacetic acid (46.5 mg, 0.547 mmol), HATU (375.2 mg, 0.9868 mmol) and TEA (100.5 mg, 0.9932 mmol). The mixture was stirred at room temperature for 2 h. The mixture was diluted with water (50 mL), and extracted with DCM/MeOH (10/1, 50 mL×3). The combined organic layer was dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=100/1 to 10/1) to give the product as a yellow solid (105 mg, 44.94%).

reactant | 2-[4-[[4-(3-azaspiro[5.5]undecan-9-ylamino)-5-chloropyrimidin-2-yl]amino]-1H-pyrazol-1-yl]ethanol | 0.4940 mmol, 200.5 mg | C1CNCCC12CCC(CC2)NC2=NC(=NC=C2Cl)NC=2C=NN(C2)CCO | C19H28ClN7O
reactant | 2-cyanoacetic acid | 0.547 mmol, 46.5 mg | C(#N)CC(=O)O | C3H3NO2
reactant | HATU | 0.9868 mmol, 375.2 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 3-(9-((5-chloro-2-((1-(2-hydroxyethyl)-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecan-3-yl)-3-oxopropanenitrile | 105 mg, 44.94% | ClC=1C(=NC(=NC1)NC=1C=NN(C1)CCO)NC1CCC2(CCN(CC2)C(CC#N)=O)CC1 | C22H29ClN8O2
